US06846819B1
a) 2-Amino-5-bromo-3-(bromomethyl)pyridine hydrobromide
A solution of 2-amino-5-bromo-3-hydroxymethylpyridine (5.00 g. 24.6 mmole), from Preparation 14 (b), in 48% aqueous HBr (50 mL), was heated at reflux for 12 hrs. The reaction was concentrated and toluene was used to azeotrope the residual H2O. The resulting light brown solid was placed under high vacuum overnight and used directly.

reactant | 2-amino-5-bromo-3-hydroxymethylpyridine | 24.6 mmole, 5.00 g | NC1=NC=C(C=C1CO)Br | C6H7BrN2O
reactant | HBr | 50 mL | Br | BrH
product | 2-Amino-5-bromo-3-(bromomethyl)pyridine hydrobromide | Br.NC1=NC=C(C=C1CBr)Br | InChI=1S/C6H6Br2N2.BrH/c7-2-4-1-5(8)3-10-6(4)9;/h1,3H,2H2,(H2,9,10);1H
